US05041443
Preparation of 4-(4-fluorophenyl)-5,6,7,8-tetrahydro-2(1H)-quinazolinone:
A mixture of 2-(4-fluorobenzoyl)cyclohexanone (14 g), urea (7.6 g), conc. hydrochloric acid (8 ml) and ethanol (40 ml) is refluxed for 8 hours. After cooling, the reaction mixture is diluted with water and washed with methylene chloride. The aqueous layer is made alkaline with potassium carbonate, and the precipitated crystal is separated by filtration and recrystallized from N,N-dimethylformamide-ethanol to give the desired compound (9.6 g), m.p. 248°-253° C.

reactant | 2-(4-fluorobenzoyl)cyclohexanone | 14 g | FC1=CC=C(C(=O)C2C(CCCC2)=O)C=C1 | C13H13FO2
reactant | urea | 7.6 g | NC(=O)N | CH4N2O
reactant | hydrochloric acid | 8 ml | Cl | ClH
reactant | ethanol | 40 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 4-(4-fluorophenyl)-5,6,7,8-tetrahydro-2(1H)-quinazolinone | 9.6 g | FC1=CC=C(C=C1)C1=NC(NC=2CCCCC12)=O | C14H13FN2O
